US04065573
Following the procedure of Example 1, Part E, but substituting 17.54 gm. (0.058 mole) of 4-cyano-4-(3,4-dimethoxyphenyl)cyclohexanone, ethylene ketal (prepared in Part D, above) for the 21.87 gm. of 4-(p-chlorophenyl)-4-cyanocyclohexanone, ethylene ketal; and using 17.5 gm. (0.31 mole) potassium hydroxide and 175 ml. ethylene glycol instead of the 22.0 gm. and 220 ml., respectively; there is obtained, after removal of the ether, 19.0 gm. (99% yield) of 4-carboxy-4-(3,4-dimethoxyphenyl)cyclohexanone, ethylene ketal as a gum that gives a reasonably expected infrared spectrum.

reactant | 4-cyano-4-(3,4-dimethoxyphenyl)cyclohexanone | 0.058 mole | C(#N)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC | C15H17NO3
reactant | 4-(p-chlorophenyl)-4-cyanocyclohexanone | ClC1=CC=C(C=C1)C1(CCC(CC1)=O)C#N | C13H12ClNO
reactant | potassium hydroxide | 0.31 mole | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 4-carboxy-4-(3,4-dimethoxyphenyl)cyclohexanone | 99% yield | C(=O)(O)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC | C15H18O5
